US04472408
To a mixture of 0.152 mole of LiAlH(OCH3)3 and 60 ml of anhydrous diethyl ether at room temperature 0.038 mole of 4-(3-trifluoromethylphenyl)-1-(3-cyclohexylpropionyl)-1,2,3,6-tetrahydropyridine and 50 ml of anhydrous diethyl ether are added in 30 minutes. The product is left for 2 hours with stirring at room temperature, then water is added, the ethereal phase is decanted, dried over anhydrous sodium sulfate and the solvent is evaporated under reduced pressure. The oily residue, constituted by 4-(3-trifluoromethylphenyl)-1-(3-cyclohexylpropyl)-1,2,3,6-tetrahydropyridine base, is dissolved in isopropanol and the solution thus obtained is acidified with hydrogen chloride. In this way is obtained the 4-(3-trifluoromethylphenyl)-1-(3-cyclohexylpropyl)-1,2,3,6-tetrahydropyridine hydrochloride which, after crystallization from acetone, melts at 219°-222° C.

reactant | diethyl ether | 60 ml | C(C)OCC | C4H10O
reactant | 4-(3-trifluoromethylphenyl)-1-(3-cyclohexylpropionyl)-1,2,3,6-tetrahydropyridine | 0.038 mole | FC(C=1C=C(C=CC1)C=1CCN(CC1)C(CCC1CCCCC1)=O)(F)F | C21H26F3NO
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
product | 4-(3-trifluoromethylphenyl)-1-(3-cyclohexylpropyl)-1,2,3,6-tetrahydropyridine hydrochloride | Cl.FC(C=1C=C(C=CC1)C=1CCN(CC1)CCCC1CCCCC1)(F)F | InChI=1S/C21H28F3N.ClH/c22-21(23,24)20-10-4-9-19(16-20)18-11-14-25(15-12-18)13-5-8-17-6-2-1-3-7-17;/h4,9-11,16-17H,1-3,5-8,12-15H2;1H
